US04243819
4-Chloroaniline is reacted with m-phenoxybenzyl 2-bromobutanoate using the process of Example 4 to yield m-phenoxybenzyl 2-(4-chlorophenylamino)butanoate, MS m/e 395 (M+).

reactant | 4-Chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | m-phenoxybenzyl 2-bromobutanoate | BrC(C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)CC | C17H17BrO3
product | m-phenoxybenzyl 2-(4-chlorophenylamino)butanoate | ClC1=CC=C(C=C1)NC(C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)CC | C23H22ClNO3
